Name:  ___  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
small subarachnoid hemorrhage
small subdural hemorrhage
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ who presents s/p fall. Pt states he was drinking brandy 
today. He himself states he does not drink daily but wife and 
sister states he drinks daily. No history of withdrawal 
seizures. Family was present when he fell down stairs. States he 
hit his head on the wall. He did not lose consciousness but was 
bleeding a lot so wife called EMS who brought him here. Patient 
states he takes a blue pill at night to help sleep. Has had 2x 
urologic procedures in the past for difficulty urinating. Wife 
states he has hx of prostate cancer and has had radiation 
treatment in the past. This is in remission as far as they are 
aware. Denies any allergies.

On arrival to the ED, trauma basic was activated. CT head/neck 
significant for small R SAH. CXR normal. No other injuries 
identified. NSGY consulted. Started on keppra 1000mg BID. 
Admitted to ___ for neuro monitoring. 

 
Past Medical History:
Prostate cancer s/p radiation and supposed TURP, pre-diabetes

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Gen: Awake and alert
HEENT: Posterior scalp laceration, stable
CV: RRR
Resp: CTAB
Abd: Soft, nontender, nondistended
Ext: Warm, well perfused
 
Pertinent Results:
___ 07:03AM BLOOD WBC-10.3* RBC-3.99* Hgb-12.9* Hct-36.7* 
MCV-92 MCH-32.3* MCHC-35.1 RDW-12.4 RDWSD-41.3 Plt ___
___ 04:15AM BLOOD Glucose-96 UreaN-16 Creat-0.8 Na-141 
K-4.1 Cl-105 HCO3-23 AnGap-17
___ 04:15AM BLOOD Calcium-9.0 Phos-2.7 Mg-1.8
___ 06:30PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Mr. ___ was admitted to ___ 
___ after a fall. CT head and c-spine were performed, 
which showed a small subarachnoid hemorrhage and small subdural 
hemorrhage. He also had a small left posterior scalp hematoma 
and laceration. There was no acute injury identified on his CT 
c-spine. Neurosurgery was consulted, and he was started on 
Keppra 1000mg BID for seizure prophylaxis and admitted to the 
___ for close monitoring. He underwent Q1hour neuro checks, 
which were unremarkable. He remained hemodynamically stable. On 
HD 1, he remained neurologically intact. A repeat head CT showed 
stable findings, with no evidence of progression or new 
bleeding. He tolerated a regular diet and ambulated 
independently without problem. He was cleared by neurosurgery 
and ACS to be discharged home from the ICU with plans to 
follow-up in clinic with Dr. ___. He will continue to take 
keppra at home for 7 days.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice 
daily Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small right subarachnoid hemorrhage
Small bilateral subdural hemorrhage
Scalp hematoma and laceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed, including keppra for one 
week.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___